US04307116
4-(Hydroxyethyl)-thiosemicarbazide (5 g) and ethyl oxalate (5.5 cc) are added to a solution of sodium methylate (prepared from sodium (0.85 g) and methanol (37 cc), and the mixture is heated under reflux for 3 hours. After it has cooled, the precipitate is filtered off and washed with methanol (2×5 cc). The crude sodium salt is obtained, and is then taken up in distilled water (25 cc); the solution is filtered, and acidified to pH 2 with 1 N hydrochloric acid. The precipitate is filtered off, washed with water and dried in air. 5,6-Dioxo-4-(2-hydroxyethyl)-3-thioxo-perhydro-1,2,4-triazine (2.4 g) (m.p.=230° C.) is obtained.

reactant | 4-(Hydroxyethyl)-thiosemicarbazide | 5 g | OCCNC(NN)=S | C3H9N3OS
reactant | ethyl oxalate | 5.5 cc | C(C(=O)[O-])(=O)OCC
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.85 g | [Na] | Na
solvent | water | 25 cc | O | H2O
solvent | methanol | 37 cc | CO | CH4O
product | 5,6-Dioxo-4-(2-hydroxyethyl)-3-thioxo-perhydro-1,2,4-triazine | 2.4 g | O=C1N(C(NNC1=O)=S)CCO | C5H7N3O3S
